US06472386B1
Synthesis of N,N′-bis[[1-Methyl-3-(3,4,5-trimethoxy-phenyl)pyrazol-5-yl]methyl]homopiperazine
5-Chloromethyl-1-methyl-3-(3,4,5-trimethoxy-phenyl)pyrazole (119 mg) and homopiperazine (20 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 5-Chloromethyl-1-methyl-3-(3,4,5-trimethoxy-phenyl)pyrazole | 119 mg | ClCC1=CC(=NN1C)C1=CC(=C(C(=C1)OC)OC)OC | C14H17ClN2O3
reactant | homopiperazine | 20 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[1-Methyl-3-(3,4,5-trimethoxy-phenyl)pyrazol-5-yl]methyl]homopiperazine | CN1N=C(C=C1CN1CCN(CCC1)CC1=CC(=NN1C)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC(=C(C(=C1)OC)OC)OC | C33H44N6O6
